US04979978
Preparation of (3-Chloro-2-hydroxyphenyl)-(2-methoxyphenyl)methane
(3-Chloro-2-methoxymethoxyphenyl)(2-methoxyphenyl)methanol (15.27 g, 49 mmol) was combined with 15.97 g (100 mmol) of triethylsilane in 150 ml of methylene chloride and to this was added at ambient temperature with stirring under nitrogen 14.8 g (130 mmol) of trifluoroacetic acid. The mixture was stirred for 4 hours and was then poured into saturated aqueous sodium bicarbonate. Additional methylene chloride was added and the organic phase was recovered, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue was purified by preparative liquid chromatography eluting with a 1:99 mixture of acetone and hexane to obtain 3.98 g (33 percent of theory) of the title compound. The proton nmr spectrum was consistent with the assigned structure.

reactant | (3-Chloro-2-methoxymethoxyphenyl)(2-methoxyphenyl)methanol | 49 mmol, 15.27 g | ClC=1C(=C(C=CC1)C(O)C1=C(C=CC=C1)OC)OCOC | C16H17ClO4
reactant | triethylsilane | 100 mmol, 15.97 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 130 mmol, 8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | (3-Chloro-2-hydroxyphenyl)-(2-methoxyphenyl)methane | ClC=1C(=C(C=CC1)CC1=C(C=CC=C1)OC)O | C14H13ClO2
